US06569890B2
Preparation of 2-Methyl-5-phenyl-1-(3-trifluoromethylphenyl)-1H-pyrrole-3-carboxylic Acid Ethyl Ester
m-Trifluoromethylaniline (5 mmol, 0.8 g), 3-oxo-2-(2-oxo-2-phenyl-ethyl)-butyric acid ethyl ester (5 mmol, 1.2 g), and tosic acid (0.1 g) were combined in ethanol, then heated under reflux. The crude material was resuspended in chloroform and washed with water, then with brine. The organic layer was dried over NaSO4. The solids were separated and the solvents removed under vacuum. The resulting oil was purified over silica gel to yield the named product, 1H-NMR (CDCl3, ppm): 1.37 t (3H), 2.42 s (3H), 4.32 q (2H), 6.80 s (1H), 7.0-7.6 bm (9H).

reactant | m-Trifluoromethylaniline | 5 mmol, 0.8 g | FC(C=1C=C(N)C=CC1)(F)F | C7H6F3N
reactant | 3-oxo-2-(2-oxo-2-phenyl-ethyl)-butyric acid ethyl ester | 5 mmol, 1.2 g | C(C)OC(C(C(C)=O)CC(C1=CC=CC=C1)=O)=O | C14H16O4
reactant | tosic acid | 0.1 g | CC1=CC=C(C=C1)S(=O)(=O)O | C7H8O3S
solvent | ethanol | C(C)O | C2H6O
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 2-Methyl-5-phenyl-1-(3-trifluoromethylphenyl)-1H-pyrrole-3-carboxylic Acid Ethyl Ester | C(C)OC(=O)C1=C(N(C(=C1)C1=CC=CC=C1)C1=CC(=CC=C1)C(F)(F)F)C | C21H18F3NO2
